US09371295B2
Step 1: (S)-9-(benzyl(methyl)amino)-9-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)nonan-3-one
(S)-9-amino-9-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)nonan-3-one (0.21 mmol, 1 eq), prepared as described above, was solubilized in dichloroethane (2.1 mL) and treated with benzaldehyde (0.17 mmol, 0.8 eq). The mixture was stirred 1 h at room temperature then treated with NaBH(AcO)3 (0.21 mmol, 1 eq). After stirring 30 min at room temperatures, a 37% solution of HCHO in water (3 eq) and NaBH(AcO)3 (0.21 mmol, 3 eq). After 10 minutes, the mixture was diluted with DCM and washed with water and brine. The organic phase was dried, filtered and concentrated. Residue was purified by flash chromatography using EtOAc/Petroleum Ether in a linear gradient from 4% to 40% of EtOAc. The product was obtained as a colorless oil in 53% yield. MS (ES) C30H35N3O3 requires: 485.62, found: 486. 1H-NMR (300 MHz, DMSO-d6) δ: 8.58 (1 H, s), 8.05 (1 H, d, J=5.4 Hz), 7.81 (1 H, d, J=6.3 Hz), 7.71 (2 H, m). 7.49 (1 H, t, J=5.4 Hz), 7.34-7.30 (4 H, m), 7.27-7.22 (1 H, m), 4.17 (3 H, s), 3.95 (1 H, t, J=5.7 Hz), 3.72 (1 H, d, J=10.2 Hz), 3.49 (1 H, d, J=10.2 Hz), 2.41-2.34 (2 H, m), 2.18 (3 H, s), 1.99-1.93 (2 H, m), 1.50-1.41 (4 H, m), 1.27-1.23 (4 H, m), 0.89 (3 H, t, J=5.4 Hz).

reactant | (S)-9-amino-9-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)nonan-3-one | 0.21 mmol, 1 eq | N[C@@H](CCCCCC(CC)=O)C=1OC(=CN1)C=1C(=NC2=CC=CC=C2C1)OC | C22H27N3O3
reactant | benzaldehyde | 0.17 mmol, 0.8 eq | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH(AcO)3 | 0.21 mmol, 1 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HCHO | C=O | CH2O
reactant | water | 3 eq | O | H2O
reactant | NaBH(AcO)3 | 0.21 mmol, 3 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 2.1 mL | ClC(C)Cl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-9-(benzyl(methyl)amino)-9-(5-(2-methoxyquinolin-3-yl)oxazol-2-yl)nonan-3-one | 53% yield | C(C1=CC=CC=C1)N([C@@H](CCCCCC(CC)=O)C=1OC(=CN1)C=1C(=NC2=CC=CC=C2C1)OC)C | C30H35N3O3
